US05561133
To a stirred solution of α-tert-butyl-N-BENZYLOXYCARBONYL-L-GLUTAMATE (1.63 g) and N-methylmorpholine (0.487 g) in dry tetrahydrofuran (8 ml) cooled to -20° C. was added isobutyl chloroformate (0.657 g). After 10 minutes a solution of tert-butyl-N-methylglycine (0.70 g) in tetrahydrofuran (8 ml) was added. Stirring was continued for 10 minutes at -20° C., and then at laboratory temperature for 4 hours. N-methylmorpholine hydrochloride was filtered off and the filtrate concentrated in vacuo. The residue was purified by chromatography on a silica gel column using 5% ethyl acetate in dichloromethane as eluant, affording di-tert-butyl-N-methyl-[N-(benzyloxycarbonyl)-L-γ-glutamyl]glycine as a yellow oil (1.73 g).

reactant | α-tert-butyl-N-BENZYLOXYCARBONYL-L-GLUTAMATE | 1.63 g | C(C)(C)(C)[C@](NC(=O)OCC1=CC=CC=C1)(CCC(=O)[O-])C(=O)[O-]
reactant | N-methylmorpholine | 0.487 g | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 0.657 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | tert-butyl-N-methylglycine | 0.70 g | C(C)(C)(C)N(CC(=O)O)C | C7H15NO2
reactant | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
product | di-tert-butyl-N-methyl-[N-(benzyloxycarbonyl)-L-γ-glutamyl]glycine | 1.73 g | C(C)(C)(C)C(N(C)C(CC[C@H](NC(=O)OCC1=CC=CC=C1)C(=O)O)=O)(C(=O)O)C(C)(C)C | C24H36N2O7
